US08957062B2
Step E: 4-[(1R,2S)-2-(2-{[3-methyl-5-(2-oxoimidazolidin-1-yl)pyridine-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carbonitrile
To a solution of 1-(5-methyl-6-{2-[(1S,2R)-2-piperidine-4-ylcyclopropyl]ethoxy}pyridine-3-yl)imidazolidin-2-one (12 mg, 0.035 mmol) in 1.5 mL of DCM was added K2CO3 (14.5 mg, 0.105 mmol, in 0.5 mL of water) at room temperature followed by addition of cyanogen bromide (0.014 mL of 3M soln in DCM, 0.042 mmol) via syringe at room temperature. The mixture was then stirred for 30 min at room temperature and then diluted with 2 mL DCM. The solution was washed with sat'd NaHCO3 aq. soln, separated, dried over Na2SO4, filtered and the filtrate concentrated in vacuo. The crude product was used without further purification. LCMS (ESI) m/z 370 [M+H]+.

reactant | 1-(5-methyl-6-{2-[(1S,2R)-2-piperidine-4-ylcyclopropyl]ethoxy}pyridine-3-yl)imidazolidin-2-one | 0.035 mmol, 12 mg | CC=1C=C(C=NC1OCC[C@H]1[C@H](C1)C1CCNCC1)N1C(NCC1)=O | C19H28N4O2
reactant | K2CO3 | 0.105 mmol, 0.5 mL, 14.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | N#CBr | CBrN
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[(1R,2S)-2-(2-{[3-methyl-5-(2-oxoimidazolidin-1-yl)pyridine-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carbonitrile | CC=1C(=NC=C(C1)N1C(NCC1)=O)OCC[C@H]1[C@H](C1)C1CCN(CC1)C#N | C20H27N5O2
